US05532267
6-Amidino-2-naphthyl 5-(3-carboxypropionylaminomethyl)furan-2-carboxylate hydrobromide
To 250 g of a 30% hydrobromic acid solution in acetic acid was added with water-cooling 8.0 g of 6-amidino-2-naphthyl 5-(3-t-butoxycarbonylpropionylaminomethyl)furan-2-carboxylate hydrobromide, and the mixture was stirred for 3 hours. The precipitate was filtered off, and the filtrate was poured into 2 l of ether. The mixture was stirred for 3 hours at room temperature and the precipitate was collected by filtration to obtain 5 g of the intended product.

reactant | hydrobromic acid | Br | BrH
reactant | water | O | H2O
reactant | 6-amidino-2-naphthyl 5-(3-t-butoxycarbonylpropionylaminomethyl)furan-2-carboxylate hydrobromide | 8.0 g | Br.C(C)(C)(C)OC(=O)CCC(=O)NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Amidino-2-naphthyl 5-(3-carboxypropionylaminomethyl)furan-2-carboxylate hydrobromide | 5 g | Br.C(=O)(O)CCC(=O)NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | InChI=1S/C21H19N3O6.BrH/c22-20(23)14-2-1-13-10-15(4-3-12(13)9-14)30-21(28)17-6-5-16(29-17)11-24-18(25)7-8-19(26)27;/h1-6,9-10H,7-8,11H2,(H3,22,23)(H,24,25)(H,26,27);1H
